US06180113B2
a) N-Decylperfluorooctanesulfonamide
50.21 g (100.0 mmol) of perfluorooctanesulfonyl fluoride is added in drops to a mixture of 10.62 g (105.0 mmol) of triethylamine and 15.73 g (100.0 mmol) of decylamine at 80° C. while being stirred vigorously. It is stirred for 2 days at 80° C., the reaction mixture is mixed with 300 ml of water and extracted three times with ethyl acetate. The combined organic extracts are dried on sodium sulfate, filtered and concentrated by evaporation. The residue is chromatographed on silica gel (mobile solvent: dichloromethane/methanol=4/1).

reactant | perfluorooctanesulfonyl fluoride | 100.0 mmol, 50.21 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C8F18O2S
reactant | triethylamine | 105.0 mmol, 10.62 g | C(C)N(CC)CC | C6H15N
reactant | decylamine | 100.0 mmol, 15.73 g | C(CCCCCCCCC)N | C10H23N
solvent | water | 300 ml | O | H2O
product | N-Decylperfluorooctanesulfonamide | C(CCCCCCCCC)NS(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C18H22F17NO2S
